US08012964B2
(i) Methyl {3-[(3-bromopropyl)amino]phenyl}acetate
Using 1,3-dibromopropane (1.7 ml) and methyl (3-aminophenyl)acetate (280 mg), the same manner to Example 2-41 step (i) was conducted to give the titled compound as a solid. Yield: 200 mg (70%).

reactant | 1,3-dibromopropane | 1.7 ml | BrCCCBr | C3H6Br2
reactant | methyl (3-aminophenyl)acetate | 280 mg | NC=1C=C(C=CC1)CC(=O)OC | C9H11NO2
product | Methyl {3-[(3-bromopropyl)amino]phenyl}acetate | BrCCCNC=1C=C(C=CC1)CC(=O)OC | C12H16BrNO2
